US06156801
2-[4-(Benzyloxy)phenoxy]-5-methoxyaniline hydrochloride
To a solution of 4-[4-(benzyloxy)phenoxy]-3-nitroanisole (1.23 g, 3.5 mmol) in ethanol (20 ml) were added an iron powder (0.90 g, 16.1 mg-atom) and a solution of ammonium chloride (0.11 g, 2.1 mmol) in water (2 ml), followed by reflux for 3 hours. The insoluble matter was filtered, and the filtrate was poured into water, followed by extraction with ethyl acetate. The organic layer was washed with water, then with a saturated aqueous sodium chloride solution and dried, and thereafter the solvent was evaporated under reduced pressure. The residue was dissolved in a small amount of ethyl acetate, and the resulting solution was, after addition of 4N-hydrogen chloride/acetic acid solution (2 ml), stirred for 30 minutes. The precipitating crystals were collected by filtration and dried under reduced pressure to give the title compound (0.65 g).

reactant | 4-[4-(benzyloxy)phenoxy]-3-nitroanisole | 3.5 mmol, 1.23 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C=C2)OC)[N+](=O)[O-])C=C1 | C20H17NO5
reactant | ammonium chloride | 2.1 mmol, 0.11 g | [Cl-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | iron | 0.90 g | [Fe] | Fe
product | 2-[4-(Benzyloxy)phenoxy]-5-methoxyaniline hydrochloride | 0.65 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(OC2=C(N)C=C(C=C2)OC)C=C1 | InChI=1S/C20H19NO3.ClH/c1-22-18-11-12-20(19(21)13-18)24-17-9-7-16(8-10-17)23-14-15-5-3-2-4-6-15;/h2-13H,14,21H2,1H3;1H
